US09255089B2
To 2,2,6,6-tetramethylpiperidine (0.27 mL, 1.56 mmol) in tetrahydrofuran (16 mL) at −78° C. was added n-butyllithium (0.97 mL, 1.56 mmol, 1.6 M in hexanes). After 5 minutes, the reaction was warmed to 0° C. After stirring for 30 minutes, the reaction was cooled to −78° C., and pyrazine (137 mg, 1.69 mmol) in tetrahydrofuran (3.3 mL) and tert-butyl dimethylisoxazol-4-yl)-2-ethoxy-4-formyl-1H-indole-1-carboxylate (498 mg, 1.3 mmol) in tetrahydrofuran (2.6 mL) were added simultaneously in a drop-wise manner. After stirring for 60 minutes, the reaction was quenched with saturated NH4Cl(aq) (10 mL), extracted with ethyl acetate (3×10 mL), dried over Na2SO4, and concentrated in vacuo. Purification by flash chromatography (0-100% ethyl acetate/hexane) afforded tert-butyl 6-(3,5-dimethylisoxazol-4-yl)-2-ethoxy-4-(hydroxy(pyrazin-2-yl)methyl)-1H-benzo[d]imidazole-1-carboxylate. To tert-butyl 6-(3,5-dimethylisoxazol-4-yl)-2-ethoxy-4-(hydroxy(pyrazin-2-yl)methyl)-1H-benzo[d]imidazole-1-carboxylate (50 mg, 0.11 mmol) in dichloromethane (2.5 mL) was added Dess-Martin periodinane (72.4 mg, 0.16 mmol). After 15 minutes, the reaction was quenched with saturated Na2S2O3(aq) (10 mL) and extracted with dichloromethane (3×10 mL), dried over Na2SO4, and concentrated in vacuo. Purification by flash chromatography (0-100% ethyl acetate/hexanes) afforded tert-butyl 6-(3,5-dimethylisoxazol-4-yl)-2-ethoxy-4-(pyrazine-2-carbonyl)-1H-benzo[d]imidazole-1-carboxylate as a yellow oil.

reactant | tert-butyl 6-(3,5-dimethylisoxazol-4-yl)-2-ethoxy-4-(hydroxy(pyrazin-2-yl)methyl)-1H-benzo[d]imidazole-1-carboxylate | 0.11 mmol, 50 mg | CC1=NOC(=C1C=1C=C(C2=C(N(C(=N2)OCC)C(=O)OC(C)(C)C)C1)C(C1=NC=CN=C1)O)C | C24H27N5O5
reactant | Dess-Martin periodinane | 0.16 mmol, 72.4 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | dichloromethane | 2.5 mL | ClCCl | CH2Cl2
product | tert-butyl 6-(3,5-dimethylisoxazol-4-yl)-2-ethoxy-4-(pyrazine-2-carbonyl)-1H-benzo[d]imidazole-1-carboxylate | CC1=NOC(=C1C=1C=C(C2=C(N(C(=N2)OCC)C(=O)OC(C)(C)C)C1)C(=O)C1=NC=CN=C1)C | C24H25N5O5
